US05034451
A reactor was charged with 1125 parts of vinyl acetate (VAc), 150 parts of allyl acetate (AAc), and 1570 parts of methanol. The atmosphere in the reactor was completely replaced with nitrogen. The external temperature was raised to 65° C., and when the internal temperature had reached 60° C., 19.5 parts of 2,2'-azobisisobutyronitrile was added to initiate polymerization. Five hours later, when conversion to polymer reached 70%, the reactor was cooled to suspend polymerization. Unreacted VAc and AAc were eliminated under reduced pressure by adding methanol. Thus there was obtained a methanol solution of VAc-AAc copolymer.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | allyl acetate | C(C)(=O)OCC=C | C5H8O2
reactant | 2,2'-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | methanol | CO | CH4O
product | VAc AAc | C(C)(=O)OC=C.C(C)(=O)OCC=C | InChI=1S/C5H8O2.C4H6O2/c1-3-4-7-5(2)6;1-3-6-4(2)5/h3H,1,4H2,2H3;3H,1H2,2H3
